US04597902
N'-[2-(Diethylamino)ethyl]-N-[2-[(4-methoxyphenyl)sulfonyl]ethyl]-N-(1-methylethyl)urea
A solution of 4.54 g (0.28 mole) of 1,1'-carbonyldiimidazole and 2.90 g (0.025 mole) of N,N-diethylethylenediamine in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 5.89 g (0.0229 mole) of N-[2-[(4-methoxyphenyl)sulfonyl]ethyl]-2-propanamine in 50 ml of tetrahydrofuran was added, and the mixture was refluxed overnight. The solvent was removed in vacuo, and the residue was dissolved in 800 ml of a 50/50 mixture of methylene chloride-ether. The organic solution was extracted with water and was dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. This was crystallized from ether-hexane to give 6.16 g (67.3%) of white crystalline solid; m.p. 39.5°-42° C.

reactant | 1,1'-carbonyldiimidazole | 0.28 mole, 4.54 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diethylethylenediamine | 0.025 mole, 2.90 g | C(C)N(CCN)CC | C6H16N2
reactant | N-[2-[(4-methoxyphenyl)sulfonyl]ethyl]-2-propanamine | 0.0229 mole, 5.89 g | COC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C | C12H19NO3S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N'-[2-(Diethylamino)ethyl]-N-[2-[(4-methoxyphenyl)sulfonyl]ethyl]-N-(1-methylethyl)urea | 6.16 g, 67.3% | C(C)N(CCNC(N(C(C)C)CCS(=O)(=O)C1=CC=C(C=C1)OC)=O)CC | C19H33N3O4S
